US07276606B2
5-(Furan-2-carbonyl)-5H-phenanthridin-6-one was prepared from 5H-phenanthridin-6-one and 2-furoyl chloride according to GP 1. Yield, 2%. 1H-NMR (CD3OD): δ=6.77 (dd, J=3.6 Hz, J=1.8 Hz, 1H), 7.44 (ddd, J=J=7.5 Hz, J=1.0 Hz, 1H), 7.41 (ddd, J=J=7.7 Hz, J=1.1 Hz, 1H), 7.48 (ddd, J=J=7.5 Hz, J=1.1 Hz, 1H), 7.54 (ddd, J=J=7.5 Hz, J=1.1 Hz, 1H), 7.57 (dd, J=3.6 Hz, J=0.7 Hz, 1H), 7.70 (d, J=7.5 Hz, 1H), 7.74 (d, J=7.5 Hz, 1H), 7.92 (d, J=7.5 Hz, 1H), 7.95 (dd, J=1.8 Hz, J=0.7 Hz, 1H), 8.47 (d, J=7.7 Hz, 1H); (+)-ESI-MS: m/z=290 [M+H]+.

reactant | 5H-phenanthridin-6-one | C1=CC=CC=2NC(C3=CC=CC=C3C12)=O | C13H9NO
reactant | 2-furoyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
product | 5-(Furan-2-carbonyl)-5H-phenanthridin-6-one | O1C(=CC=C1)C(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1=O | C18H11NO3
